10
R0100 1 0 1
R0203 2 3 4
R0405 4 5 4
R0607 6 7 0.1
L0400 4 0 4
L0600 6 0 4
L0809 8 9 4
C0200 2 0 0.25
C0710 7 10 0.25
C0108 1 8 0.25
I0009 0 9 1 45 0
V0300 3 0 1 0 10
V0500 5 0 1 90 10
V1000 10 0 1 0 10
.AC DEC 100 0.01 100
